US05117057
A solution of N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine (1.0 g, 0.00518 mol) in 20 ml of toluene at 23° C. was treated sequentially with 50% sodium hydroxide (1.3 g) and benzoyl chloride (0.728 g). The mixture was stirred overnight. The solids were removed by filtration and washed with water to afford N'-t-butyl-N-(2-pyridinecarbonyl)-N'-benzoylh-ydrazine.

reactant | N'-t-butyl-N-(2-pyridinecarbonyl)hydrazine | 0.00518 mol, 1.0 g | C(C)(C)(C)NNC(=O)C1=NC=CC=C1 | C10H15N3O
reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
reactant | benzoyl chloride | 0.728 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-(2-pyridinecarbonyl)-N'-benzoylh-ydrazine | C(C)(C)(C)N(NC(=O)C1=NC=CC=C1)C(C1=CC=CC=C1)=O | C17H19N3O2
